US05531910
Di(cyclohexylethyl) maleate
Cyclohexylethyl alcohol in the amount of 17.15 g (0.134 mol), maleic anhydride in the amount of 4.42 g (0.045 mol) and p-toluenesulfonic acid in the amount of 0.09 g (0.40 mmol) were combined with 80 mL of toluene in a flask fitted with a condenser, argon inlet and Dean-Stark trap. The mixture was heated to reflux for 18 h at which time the theoretical amount of water was collected. The product mixture was poured into separatory funnel and washed with saturated NaHCO3 solution (3×80 mL), brine (80 mL), water (80 mL), dried over MgSO4, filtered and concentrated to give an oil. The product mixture was further concentrated by Kugelrohr distillation at 85° C. (0.1 mm Hg) to give a viscous oil. Purity of the product was determined by thin layer chromatography and the structure confirmed by 1H and 13C NMR.

reactant | Cyclohexylethyl alcohol | C1(CCCCC1)CCO | C8H16O
reactant | maleic anhydride | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | Di(cyclohexylethyl) maleate | C(\C=C/C(=O)OCCC1CCCCC1)(=O)OCCC1CCCCC1 | C20H32O4
